US04714492
0.64 gms of 1-methyl-2-phenyl-6-(4'-methylphenyl)-4-oxonicotinic acid, 0.09 gms of NaOH and 30 mls of methanol were mixed. Evaporation of the solvent provided 0.6 gms of sodium 1-methyl-2-phenyl-6-(4'-methylphenyl)-4-oxonicotinate as a glassy solid.

reactant | 1-methyl-2-phenyl-6-(4'-methylphenyl)-4-oxonicotinic acid | 0.64 gms | CN1C(=C(C(=O)O)C(C=C1C1=CC=C(C=C1)C)=O)C1=CC=CC=C1 | C20H17NO3
reactant | NaOH | 0.09 gms | [OH-].[Na+]
solvent | methanol | 30 mls | CO | CH4O
product | sodium 1-methyl-2-phenyl-6-(4'-methylphenyl)-4-oxonicotinate | 0.6 gms | CN1C(=C(C(=O)[O-])C(C=C1C1=CC=C(C=C1)C)=O)C1=CC=CC=C1.[Na+] | InChI=1S/C20H17NO3.Na/c1-13-8-10-14(11-9-13)16-12-17(22)18(20(23)24)19(21(16)2)15-6-4-3-5-7-15;/h3-12H,1-2H3,(H,23,24);/q;+1/p-1
